US06030984
8-(4-Benzyloxy-phenyl)-10-[(2-methoxy-ethyl)-phenyl-carbamoyl]-7-oxo-7H-thieno[2,3-a]quinolizine-2-carboxylic acid
By lithiation of 8-(4-benzyloxy-phenyl)-7-oxo-7H-thieno[2,3-a]quinolizine-10-carboxylic acid (2-methoxy-ethyl)-phenyl-amide and reaction with carbon dioxide.

reactant | 8-(4-benzyloxy-phenyl)-7-oxo-7H-thieno[2,3-a]quinolizine-10-carboxylic acid (2-methoxy-ethyl)-phenyl-amide | COCCN(C(=O)C=1C=C(C(N2C=CC3=C(C12)SC=C3)=O)C3=CC=C(C=C3)OCC3=CC=CC=C3)C3=CC=CC=C3 | C34H28N2O4S
reactant | carbon dioxide | C(=O)=O | CO2
product | 8-(4-Benzyloxy-phenyl)-10-[(2-methoxy-ethyl)-phenyl-carbamoyl]-7-oxo-7H-thieno[2,3-a]quinolizine-2-carboxylic acid | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C=1C(N2C=CC3=C(C2=C(C1)C(N(C1=CC=CC=C1)CCOC)=O)SC(=C3)C(=O)O)=O | C35H28N2O6S
